US05506242
2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-2-[(2-methyl-5-tetrazolyl)methyl]acetic acid (0.96 g, 2.24 mmol), 1-hydroxybenzotriazole (0.30 g, 2.24 mmol), 4-methylmorpholine (0.86 mL, 7.89 mmol), and O-t-butylhydroxylamine hydrochloride (0.30 g, 2.24 mmol) are dissolved in methylene chloride (75.0 mL). N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride (0.86 g, 4.48 mmol) is added, and the reaction is stirred overnight. The reaction is then diluted with water and extracted with methylene chloride. The combined organic extracts are washed with brine, dried (Na2SO4), and the solvent is evaporated. The crude product is purified by silica gel chromatography (50% ethyl acetate/hexane) to give N-(t-butyloxy)-2-[[4-methoxybenzenesulfonyl](benzyl)amino]-2-[(2-methyl-5-tetrazolyl)methyl]acetamide.

reactant | 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-2-[(2-methyl-5-tetrazolyl)methyl]acetic acid | 2.24 mmol, 0.96 g | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)CC=1N=NN(N1)C)CC1=CC=CC=C1 | C19H21N5O5S
reactant | 1-hydroxybenzotriazole | 2.24 mmol, 0.30 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 7.89 mmol, 0.86 mL | CN1CCOCC1 | C5H11NO
reactant | O-t-butylhydroxylamine hydrochloride | 2.24 mmol, 0.30 g | Cl.C(C)(C)(C)ON
reactant | N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride | 4.48 mmol, 0.86 g | Cl.CN(C)CCCN=C=NCC
solvent | methylene chloride | 75.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(t-butyloxy)-2-[[4-methoxybenzenesulfonyl](benzyl)amino]-2-[(2-methyl-5-tetrazolyl)methyl]acetamide | C(C)(C)(C)ONC(C(CC=1N=NN(N1)C)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C23H30N6O5S
